US05576324
2-(N-Acetylaminomethyl)-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one (750 mg) was suspended in acetic acid (15 ml), to which 2,3-dichloro-5,6-dicyano -1,4-benzoquinone (782 mg) was added. The mixture was stirred at 60° C. for 1 hour. The solvent was distilled off under reduced pressure. To the residue, aqueous 1N NaOH solution (50 ml) was added. Precipitated crystals were collected. As a result, 553 mg of 2-(N-acetylaminomethyl) -6,7-dihydro-5-methylfuro[2,3-f]quinoline-7-one (74.3%) was obtained.

reactant | 2-(N-Acetylaminomethyl)-5-methyl-2,3,6,7-tetrahydrofuro[2,3-f]quinoline-7-one | 750 mg | C(C)(=O)NCC1CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C15H16N2O3
reactant | 2,3-dichloro-5,6-dicyano -1,4-benzoquinone | 782 mg | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 2-(N-acetylaminomethyl) -6,7-dihydro-5-methylfuro[2,3-f]quinoline-7-one | 553 mg, 74.3% | C(C)(=O)NCC1=CC=2C(=C3C=CC(NC3=C(C2)C)=O)O1 | C15H14N2O3
